US04147702
(a) Preparation of γ,γ-dicarbethoxybutyraldehyde
First, 100 ml acrolein was added to a solution of 180 g diethyl bromomalonate, 14 g tributylamine, and 600 ml ethanol while cooling in an ice bath. After 2-3 hours, an additional 1.5 g tributylamine and 20 ml acrolein was added. The stirring was continued for an additional 1 to 2 hours without additional cooling. The reaction mixture was neutralized with 7 ml glacial acetic acid and the ethanol and unreacted acrolein were removed on a rotary evaporator. The residue was diluted with 500 ml benzene and washed with 3× 100 ml H2O and 2× 100 ml saturated NaCl solution. The benzene solution was dired over CaSO4 and rotary evaporated to yield 207 g of yellow oil which was indicated to be 48% product by glc.

reactant | acrolein | 100 ml | C(=O)C=C | C3H4O
reactant | diethyl bromomalonate | 180 g | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | tributylamine | 14 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | ethanol | 600 ml | C(C)O | C2H6O
reactant | tributylamine | 1.5 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | acrolein | 20 ml | C(=O)C=C | C3H4O
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | γ,γ-dicarbethoxybutyraldehyde | 207 g | C(=O)(OCC)C(CCC=O)C(=O)OCC | C10H16O5
